US09029545B2
3-Chloro-N-{6-methyl-3-[3-(1-pyrrolidinyl)phenyl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide
To a mixture of N-[3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridin-4-yl]-3-chloro-N-({[2-(trimethylsilyl)ethyl]oxy}methyl)benzenesulfonamide (Description 54) (960 mg, 1.538 mmol), BINAP (57.5 mg, 0.092 mmol), Pd2(dba)3 (28.2 mg, 0.031 mmol) and sodium tert-butoxide (443 mg, 4.61 mmol) in toluene (10 mL) was added pyrrolidine (0.254 mL, 3.08 mmol) and the mixture heated at 120° C. for ca. 2 h. After cooling to RT, the mixture was passed through celite, washed with DCM (ca. 20 mL×5) and the filtrate concentrated. The residue was purified by normal phase chromatography, eluting with 0-50% ethyl acetate in cyclohexane to give a residue which was subsequently taken-up in DCM (5 mL) and TFA (2.37 mL, 30.8 mmol) added. The mixture was stirred at RT overnight (ca. 16 h) and was then quenched with NaHCO3 solution (ca. 50 mL) and extracted with DCM (30 mL×3). The combined organics were dried and concentrated and the residue purified by normal phase chromatography, eluting with a gradient of 0-100% ethyl acetate in cyclohexane and then further purified by MDAP (basic conditions). Final purification by normal phase chromatography, eluting with 0-100% ethyl acetate in DCM, afforded the title compound (197 mg). LCMS (A) m/z: 484 [M+1]+, Rt 1.53 min (acidic).

reactant | N-[3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridin-4-yl]-3-chloro-N-({[2-(trimethylsilyl)ethyl]oxy}methyl)benzenesulfonamide | 1.538 mmol, 960 mg | BrC=1C=C(C=CC1)C1=CSC2=NC(=CC(=C21)N(S(=O)(=O)C2=CC(=CC=C2)Cl)COCC[Si](C)(C)C)C | C26H28BrClN2O3S2Si
reactant | BINAP | 0.092 mmol, 57.5 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 4.61 mmol, 443 mg | CC(C)([O-])C.[Na+]
reactant | pyrrolidine | 3.08 mmol, 0.254 mL | N1CCCC1 | C4H9N
reactant | TFA | 30.8 mmol, 2.37 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.031 mmol, 28.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-Chloro-N-{6-methyl-3-[3-(1-pyrrolidinyl)phenyl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide | 197 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1)C)SC=C2C2=CC(=CC=C2)N2CCCC2 | C24H22ClN3O2S2
